US06573270B1
N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy}-1-methyl-1H-pyrazol-5-yl)-1-methyl-1H-imidazole-4-sulfonamide
Sodium hydride (60% dispersion in oil, 20 mg) was carefully added to a solution of (E)-N-[-4-(1,3-benzodioxol-5-yl)-3-(2-hydroxyethoxy)-1-methyl-1H-pyrazol-5-yl]-2-phenyl-1-ethenesulfonamide (Preparation 44) (100 mg) in anhydrous dimethylformamide (4.4 ml) at room temperature under an atmosphere of nitrogen. After 10 minutes the 5-chloro-2-(methylsulfonyl)pyrimidine (104 mg) was added and the mixture was stirred overnight. To the reaction mixture was then sequentially added an aqueous solution of ammonium chloride (4 ml) and water (30 ml) before being extracted with ether (3×8 ml). Combined organic phases were sequentially washed with water (20 ml), brine (20 ml), dried over magnesium sulfate and concentrated under reduced pressure. A purification by column chromatography (silica, 10 g) eluted with dichloromethane:methanol (95:5) yielded the title compound as a colourless oil (85 mg).

reactant | Sodium hydride | 20 mg | [H-].[Na+]
reactant | (E)-N-[-4-(1,3-benzodioxol-5-yl)-3-(2-hydroxyethoxy)-1-methyl-1H-pyrazol-5-yl]-2-phenyl-1-ethenesulfonamide | 100 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2NS(=O)(=O)\C=C\C2=CC=CC=C2)C)OCCO | C21H21N3O6S
reactant | 5-chloro-2-(methylsulfonyl)pyrimidine | 104 mg | ClC=1C=NC(=NC1)S(=O)(=O)C | C5H5ClN2O2S
reactant | ammonium chloride | 4 ml | [Cl-].[NH4+]
reactant | dimethylformamide | 4.4 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy}-1-methyl-1H-pyrazol-5-yl)-1-methyl-1H-imidazole-4-sulfonamide | 85 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2NS(=O)(=O)C=2N=CN(C2)C)C)OCCOC2=NC=C(C=N2)Cl | C21H20ClN7O6S
